US08193228B2
PCC (15.4 g, 71.4 mmol) was added to an ambient temperature solution of 3-methyl-3-(trifluoromethyl)pent-4-en-1-ol (4.0 g, 23.8 mmol) in methylene chloride (100 mL). After stirring at ambient temperature for 1.5 h, celite was added and the reaction stirred vigorously for 10 min. The reaction mixture was filtered through celite and concentrated in vacuo. TosMIC (9.3 g, 47.6 mmol) followed by potassium tert-butoxide (cat.) were added to a solution of crude residue in tetrahydrofuran (50 mL). After stirring at ambient temperature for 2 h, the reaction mixture was concentrated in vacuo. Ammonia (7 N in methanol) (50 mL) was added to the crude residue. After stirring at 100° C. overnight, the reaction mixture was cooled and concentrated in vacuo. The residue was partitioned between 10% aqueous sodium hydroxide and methylene chloride. The aqueous phase was extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded 4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazole.

reactant | PCC | 71.4 mmol, 15.4 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | 3-methyl-3-(trifluoromethyl)pent-4-en-1-ol | 23.8 mmol, 4.0 g | CC(CCO)(C=C)C(F)(F)F | C7H11F3O
reactant | TosMIC | 47.6 mmol, 9.3 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazole | CC(CC=1N=CNC1)(C=C)C(F)(F)F | C9H11F3N2
